US06281354B1
5-[(tert-Butyloxycarbonyl)amino]indole-2-carboxylic Acid.
A solution of N—BOC-5-amino-2-(methoxycarbonyl)indole (57 mg, 0.2 mmol, 1.0 equiv) in THF—CH3OH—H2O (2.4 mL) was treated with aqueous 1 N LiOH (0.24 mL, 0.24 mmol, 1.2 equiv). The reaction mixture was warmed at 60° C. for 2 h. The solvent was concentrated under a N2 stream and H2O (3 mL) was added. This solution was treated with 10% aqueous HCl until the mixture was acidic. The insoluble solid was collected by centrifugation and washed with H2O (2×3 mL). Drying the solid afforded the title compound (53 mg, 96%) as a white solid: mp 235-250° C. (decomp.); 1H NMR (acetone-d6, 400 MHz) δ 10.74 (br s, 1H, COOH), 8.26 (br s, 1H, NH), 7.95 (br s, 1H, NH), 7.43 (d, 1H, J=8.9 Hz, C6-H), 7.42 (s, 1H, C3-H), 7.39 (dd, 1H, J=8.9, 1.9 Hz, C7-H), 7.13 (dd, 1H, J=2.1, 0.8 Hz, C4-H), 1.49 (s, 9H, C(CH3)3); IR (neat) νmax 3351, 1698, 1536, 1236, 1177 cm−1; FABHRMS (NBA-NaI) m/z 299.1003 (M++Na, C14H16N2O4 requires 299.1008).

reactant | N—BOC-5-amino-2-(methoxycarbonyl)indole | 0.2 mmol, 57 mg, 1.0 equiv | C(=O)(OC(C)(C)C)N1C(=CC2=CC(=CC=C12)N)C(=O)OC | C15H18N2O4
reactant | LiOH | 0.24 mmol, 1 N, 0.24 mL, 1.2 equiv | [Li+].[OH-]
reactant | THF CH3OH—H2O | 2.4 mL | C1CCOC1.CO.O
product | 5-[(tert-Butyloxycarbonyl)amino]indole-2-carboxylic Acid | 53 mg, 96% | C(C)(C)(C)OC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C14H16N2O4
